US04874792
(a) Methyl 2-methoxy-3-hydroxy-3-(2-dodecylphenyl)propionate
To a solution of di-i-propylamine (0.77 ml, 5 mmoles) in tetrahydrofuran (10 ml) at -78° C. was added n-butyl lithium (2.1 ml, 5.5 mmoles) under argon atmosphere. After 15 minutes, methyl methoxyacetate (0.52 g, 5 mmoles) in tetrahydrofuran (2 ml) was added dropwise, with stirring. The resulting enolate solution was stirred at -78° C. for 45 minutes. A solution of 2-dodecylbenzaldehyde (1.65 g, 6 mmoles) in tetrahydrofuran (2 ml) was added. The resulting light-blue mixture became a suspension after 1.5 hours. The reaction mixture was quenched with saturated ammonium chloride solution, diluted with ether and ice-water. The aqueous phase was extracted with ether. The combined organic extract was washed with saturated sodium chloride solution, dried over magnesium sulfate, and evaporated to give the product, which was purified by flash column chromatography (silica, 15% ethyl acetate/hexane). The fractions were pooled to give 620 mg (33%).

reactant | di-i-propylamine | 5 mmoles, 0.77 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 5.5 mmoles, 2.1 ml | C(CCC)[Li]
reactant | methyl methoxyacetate | 5 mmoles, 0.52 g | COCC(=O)OC | C4H8O3
reactant | 2-dodecylbenzaldehyde | 6 mmoles, 1.65 g | C(CCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C19H30O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Methyl 2-methoxy-3-hydroxy-3-(2-dodecylphenyl)propionate | COC(C(=O)OC)C(C1=C(C=CC=C1)CCCCCCCCCCCC)O | C23H38O4
